US08563735B2
2-chloro-5-fluoro-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide
2-Chloro-4,5-difluorobenzenesulfonamide (0.683 g), (tetrahydro-2H-pyran-4-yl)methanamine (0.346 g), N,N-diisopropylethylamine (0.681 ml) and dioxane (10 ml) were heated at 65° C. for 2.5 days. Additional (tetrahydro-2H-pyran-4-yl)methanamine (0.346 g) and N,N-diisopropylethylamine (0.681 ml) were added and heating was continued at 70° C. for 1.5 days. The reaction mixture was concentrated and column chromatographed on silica gel with 0-3% methanol in dichloromethane as eluent. The obtained solid was triturated with dichloromethane to give the title compound.

reactant | 2-Chloro-4,5-difluorobenzenesulfonamide | 0.683 g | ClC1=C(C=C(C(=C1)F)F)S(=O)(=O)N | C6H4ClF2NO2S
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | 0.346 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropylethylamine | 0.681 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (tetrahydro-2H-pyran-4-yl)methanamine | 0.346 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropylethylamine | 0.681 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-chloro-5-fluoro-4-((tetrahydro-2H-pyran-4-yl)methylamino)benzenesulfonamide | ClC1=C(C=C(C(=C1)NCC1CCOCC1)F)S(=O)(=O)N | C12H16ClFN2O3S
